US06207669B1
(4-Benzyloxy-phenyl)-(6-(5-((2-methanesulphinyl-ethylamino)-methyl)-furan-2-yl)-pyrido[3,4-d]pyrimidin-4-yl)-amine
In an analogous manner to Example 1, 5-(4-(4-Benzyloxy-phenylamino)-pyrido[3,4-d]pyrimidin-6-yl)-furan-2-carbaldehyde and [2-(methanesulphinyl)ethyl]amine were converted into the title compound; δH [2H6]-DMSO 10.20 (1H, b), 9.11 (1H, s), 8.67 (1H, s), 8.59 (1H, s), 7.72 (2H, d), 7.53−7.30 (5H, m), 7.17−7.04 (3H, m), 6.52 (1H, d), 5.15 (2H, s), 3.87 (2H, s), 3.08−2.75 (4H, m), 2.55 (3H, s); m/z 514 (M+1)+.

reactant | 5-(4-(4-Benzyloxy-phenylamino)-pyrido[3,4-d]pyrimidin-6-yl)-furan-2-carbaldehyde | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC=1C2=C(N=CN1)C=NC(=C2)C2=CC=C(O2)C=O | C25H18N4O3
reactant | [2-(methanesulphinyl)ethyl]amine | CS(=O)CCN | C3H9NOS
product | (4-Benzyloxy-phenyl)-(6-(5-((2-methanesulphinyl-ethylamino)-methyl)-furan-2-yl)-pyrido[3,4-d]pyrimidin-4-yl)-amine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC=1C2=C(N=CN1)C=NC(=C2)C=2OC(=CC2)CNCCS(=O)C | C28H27N5O3S
